US09162983B2
3-Nitro-7,8-dihydroquinolin-6(5H)-one
The title compound was prepared according to the procedure of Pelcman (W02006032851, 1996). A 250 mL flask, equipped with a magnetic stirbar and reflux condenser, was charged with 3′-nitro-7′,8′-dihydro-5′H-spiro[1,3-dioxolane-2,6′-quinoline] (4.75 g, 20.1 mmol), acetone (65 mL), hydrochloric acid (2N (aq), 42 mL), and water (21 mL). The mixture was heated to 65° C. for 1 h, then to 80° C. for 30 minutes. The mixture was cooled to ambient temperature and neutralized with saturated NaHCO3 (aq) until pH=8. The mixture was extracted with EtOAc (3×) and the combined organic portions were dried (Na2SO4) and concentrated. The residue was purified by silica gel chromatography (30 to 60% EtOAc in hexanes) to afford the title compound (2.5 g, 65%).

reactant | 3′-nitro-7′,8′-dihydro-5′H-spiro[1,3-dioxolane-2,6′-quinoline] | 20.1 mmol, 4.75 g | [N+](=O)([O-])C=1C=NC=2CCC3(CC2C1)OCCO3 | C11H12N2O4
reactant | acetone | 65 mL | CC(=O)C | C3H6O
reactant | hydrochloric acid | 2N, 42 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | water | 21 mL | O | H2O
product | 3-Nitro-7,8-dihydroquinolin-6(5H)-one | 2.5 g, 65% | [N+](=O)([O-])C=1C=NC=2CCC(CC2C1)=O | C9H8N2O3
